US05710143
4-Cholesten-3,6-dione was prepared using 4-cholesten-3-one (Aldrich Co.) as a starting material by reference to the method of Hevl and Herr (F. W. Hevl and M. E. Herr, J. Am. Chem. Soc., 75: 1918, 1953) and that of Malhotra et al. (S. K. Malhotra, J. J. Hostynek and A. F. Lundin, J. Am. Chem. Soc., 90: 6565, 1968). Stated specifically, pyrrolidine (2.85 g) was added to a benzene solution (50 ml) of 4-cholesten-3-one (3.84 g) and the mixture was refluxed under heating for 24 hours. After cooling, the solvent and the excess pyrrolidine were distilled off under vacuum. Upon recrystallization from methanol, a colorless crystal of dienamine (4.16 g) was obtained. Cupric acetate (100 mg) was added to a benzene-methanol (500:10) solution of the dienamine (4.16 g) and air was introduced into the mixture for 24 hours. Then, a 2% aqueous solution (20 ml) of acetic acid was added and the mixture was stirred for 30 minutes and washed successively with water, a 1% sodium carbonate solution and a saturated saline solution. The resulting residue was dried, filtered and subjected to silica gel column chromatography (hexane:ethyl acetate=10:1) to yield a colorless crystal of 4-cholestene-3,6-dione (3.23 g).

reactant | 4-cholesten-3-one | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O | C27H44O
reactant | pyrrolidine | 2.85 g | N1CCCC1 | C4H9N
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
reactant | 4-cholesten-3-one | 3.84 g | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O | C27H44O
reactant | benzene-methanol | C1(=CC=CC=C1)CO | C7H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-cholestene-3,6-dione | 3.23 g | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC(C4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O)=O | C27H42O2
